US08217050B2
Stage 1: O-[tert-Butyl(dimethyl)silyl-L-homoserine
To a suspension of L-homoserine (1 g, 8.4 mmol) in acetonitrile (10 ml) at 0° C. was added 1,8-diazabicyclo[5.4.0]undec-7-ene (1.32 ml, 8.8 mmol, 1.05 eq). tert-butyldimethylsilyl chloride (1.33 g, 8.8 mmol, 1.05 eq) was then added portionwise over 5 minutes and the reaction mixture allowed to warm to room temperature and stirred for 16 hours. A white precipitate formed, which was filtered off and washed with acetonitrile before drying under reduced pressure. The title compound was isolated as a white solid (1.8 g, 92% yield). 1H NMR (500 MHz, DMSO-d6), δ: 7.5 (1H, br s), 3.7 (1H, m), 3.35 (4H, br m), 1.95 (1H, m), 1.70 (1H, m), 0.9 (9H, s), 0.1 (6H, s).

reactant | L-homoserine | 8.4 mmol, 1 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.8 mmol, 1.32 ml, 1.05 eq | N12CCCCCC2=NCCC1 | C9H16N2
reactant | tert-butyldimethylsilyl chloride | 8.8 mmol, 1.33 g, 1.05 eq | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | tert-Butyl(dimethyl)silyl-L-homoserine | [Si](C)(C)(C(C)(C)C)N[C@@H](CCO)C(=O)O | C10H23NO3Si
